US07534421B2
A 1-litre reactor is charged under nitrogen with cyanuric chloride (36.9 g, 0.2 mol) and then with 50 ml of THF. The suspension is cooled to 5-10° C. With stirring, at a temperature of less than 10° C., a 0.5M solution of para-methoxyphenylmagnesium in THF (400 ml, 0.2 mol) is run in under inert gas over 45 minutes. The reaction mixture is left to stand overnight. The solvent is evaporated on a rotary evaporator. The residue is poured into acidified water. Following extraction with dichloromethane, the organic phase is washed with water and dried over sodium sulphate. The solvent is evaporated. The crude solid obtained is triturated with isopropanol and then filtered. The solid is dissolved in hot toluene. Addition of the same volume of heptane precipitates the product. The precipitate is cooled, isolated by filtration and dried. This gives 31.7 g (yield: 62%) of 2,4-dichloro-6-(4-methoxyphenyl)[1,3,5]triazine in the form of a beige powder (m.p. 133-136° C.), which is used as it is in the following step.

reactant | cyanuric chloride | 0.2 mol, 36.9 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | para-methoxyphenylmagnesium | COC1=CC=C(C=C1)[Mg]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 0.2 mol, 400 ml | C1CCOC1 | C4H8O
product | 2,4-dichloro-6-(4-methoxyphenyl)[1,3,5]triazine | 31.7 g, yield: 62% | ClC1=NC(=NC(=N1)Cl)C1=CC=C(C=C1)OC | C10H7Cl2N3O
